US04098823
In a procedure as described in Example 9H, 1-chloro-3-(spiro[5.5]undec-3-yl)-1E-propen-3-one was reacted with sodium iodide in acetone to yield 1-iodo-3-(spiro[5.5]undec-3-yl)-1E-propen-3-one (70.9%).

reactant | 1-chloro-3-(spiro[5.5]undec-3-yl)-1E-propen-3-one | Cl\C=C\C(=O)C1CCC2(CC1)CCCCC2 | C14H21ClO
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-iodo-3-(spiro[5.5]undec-3-yl)-1E-propen-3-one | 70.9% | I\C=C\C(=O)C1CCC2(CC1)CCCCC2 | C14H21IO
